US06599917B1
b) 3-[4-Benzyl-2-(4-hydroxypiperidino)-5-pyridyl]ethynyl-3-quinuclidinol
A mixture of 270 mg of 4-benzyl-5-bromo-2-(4-hydroxypiperidino)pyridine, 130 mg of 3-ethynyl-3-quinuclidinol, 50 mg of tetrakis(triphenylphosphine)palladium(0), 2 mg of cuprous iodide, 0.35 ml of triethylamine and 2 ml of N,N-dimethylformamide was stirred at 100° C. for 3 hours in a nitrogen atmosphere. After cooling as it was, the reaction solution was extracted with ethyl acetate-aqueous dilute ammonia. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to NH-silica gel column chromatography and eluted with 20-100% ethyl acetate/hexane and then with 5% methanol/ethyl acetate, to give 120 mg of the target compound.

reactant | 4-benzyl-5-bromo-2-(4-hydroxypiperidino)pyridine | 270 mg | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)N1CCC(CC1)O | C17H19BrN2O
reactant | 3-ethynyl-3-quinuclidinol | 130 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[4-Benzyl-2-(4-hydroxypiperidino)-5-pyridyl]ethynyl-3-quinuclidinol | 120 mg | C(C1=CC=CC=C1)C1=CC(=NC=C1C#CC1(CN2CCC1CC2)O)N2CCC(CC2)O | C26H31N3O2
